US09193689B2
To a stirred solution of 6-fluoro-4-methyl-2,3-dihydro-1H-inden-1-one (1 g, 6.09 mmol) in a mixture of diethyl ether (10 mL) and concentrated HCl (10 mL) was added isopentyl nitrite (0.73 mL, 5.47 mmol) and stirred at RT for 3 h. The precipitated solid was collected by filtration and washed with MeOH to obtain 6-fluoro-2-(hydroxyimino)-4-methyl-2,3-dihydro-1H-inden-1-one as a brown solid (800 mg, 68%).

reactant | 6-fluoro-4-methyl-2,3-dihydro-1H-inden-1-one | 6.09 mmol, 1 g | FC1=CC(=C2CCC(C2=C1)=O)C | C10H9FO
reactant | HCl | 10 mL | Cl | ClH
reactant | isopentyl nitrite | 5.47 mmol, 0.73 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 6-fluoro-2-(hydroxyimino)-4-methyl-2,3-dihydro-1H-inden-1-one | 800 mg, 68% | FC1=CC(=C2CC(C(C2=C1)=O)=NO)C | C10H8FNO2
